* AD624C SPICE Macro-model                  9/91, Rev. A
*                                          ARG / PMI
*
* This version of the AD624 model simulates the worst case 
* parameters of the 'C' grade.  The worst case parameters
* used correspond to those in the data sheet.
*
* Copyright 1990 by Analog Devices, Inc.
*
* Refer to "README.DOC" file for License Statement.  Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* Node assignments
*
*              rg1
*              |  inverting input
*              |  |  non-inverting input
*              |  |  |  negative supply
*              |  |  |  |   reference (ground usually)
*              |  |  |  |   |   output
*              |  |  |  |   |   |   positive supply
*              |  |  |  |   |   |   |   rg2
*              |  |  |  |   |   |   |   |  sense
*              |  |  |  |   |   |   |   |  |
.SUBCKT AD624C  5  1  2  50  17  32  99  8  11  42  41  40
*                                              |   |   |
*                                              |   |  G=500
*                                              |  G=200
*                                             G=100
*
* input stage
*
Q1   4    3    5    QX
Q2   7    6    8    QX
E1   9    11   16   4    50E3
E2   10   11   16   7    50E3
I1   99   4    50E-6
I2   99   7    50E-6
I3   5    50   50E-6
I4   8    50   50E-6
IOS  0    35   10E-9
R1   1    3    50
R2   2    35   50
R3   5    9    20E3
R4   8    10   20E3
VB   99   16   1
RB   99   16   1E6
C1   4    9    12E-12
C2   7    10   12E-12
D1   5    3    DX
D2   8    6    DX
VIOS 6    35   25E-6
EOOS 34   10   POLY(1) 22 26 2E-3 1
*
* output resistor network
*
R7   9    36   1E3   
R8   36   12   9E3
R9   11   12   10E3
R10  34   37   1E3
R11  13   37   9E3
R12  13   17   10E3
R30  5    40   80.2
R31  40   41   124
R32  41   42   225.3
R33  40   42   4445
V4   99   38   2.28
V5   39   50   2.28
D11  36   38   DX
D12  39   36   DX
D13  37   38   DX
D14  39   37   DX
*
* output amplifier
*
R5   14   50   1.989E3
R6   15   50   1.989E3
I5   99   18   200E-6
J1   14   12   18   JX
J2   15   13   18   JX
C3   14   15   41E-12
*
* common mode gain stage
*
EREF 98   0    26   0    1
E3   21   20   1    26   0.5
E4   20   98   2    26   0.5
R15  21   22   10E3
R16  22   98   1
C4   21   22   159E-9
*
* gain stage
*
R17  23   98   198.9E6
C5   23   98   40E-12
G1   98   23   14 15 502.66E-6
V2   99   24   2.986
V3   25   50   2.986
D3   23   24   DX
D4   25   23   DX
R26  26   99   75E3
R27  26   50   75E3
*
* output stage
*
ISY  99   50   4.5E-3
D5   23   28   DX
D6   29   23   DX
R28  27   99   60
R29  27   50   60
L1   27   32   1.0E-8
G17  30   50   23   27   16.667E-3
G18  31   50   27   23   16.667E-3
G19  27   99   99   23   16.667E-3
G20  50   27   23   50   16.667E-3
V6   28   27   -.013
V7   27   29   .707
D7   99   30   DX
D8   99   31   DX
D9   50   30   DY
D10  50   31   DY
*
* non-linear models
*
.MODEL JX PJF (BETA=631.66E-6 VTO=-2.0 IS=1E-16)
.MODEL DX D (IS=1E-15)
.MODEL DY D (IS=1E-15 BV=50)
.MODEL QX NPN (IS=1E-16 BF=3333 RE=50)
.ENDS AD624C
